US05198449
N-[(4-Fluorophenyl)[1-[(methylamino)carbonyl]-4-piperidinyl]methyl]-N'-methyl-N-(2-phenylethyl)urea
A solution of 2.25 g (0.0072 mol) of α-(4-fluorophenyl)-N-(2-phenylethyl)-4-piperidinemethanamine and 2.50 g (0.044 mol) of methyl isocyanate in 200 mL of methylene chloride was stirred at room temperature overnight. The solvent was removed in vacuo to give a solid. This was triturated with anhydrous ether, and the solid was collected to give 2.43 g (79.1%) of white solid, mp 186°-188° C.

reactant | α-(4-fluorophenyl)-N-(2-phenylethyl)-4-piperidinemethanamine | 0.0072 mol, 2.25 g | FC1=CC=C(C=C1)C(NCCC1=CC=CC=C1)C1CCNCC1 | C20H25FN2
reactant | methyl isocyanate | 0.044 mol, 2.50 g | CN=C=O | C2H3NO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-Fluorophenyl)[1-[(methylamino)carbonyl]-4-piperidinyl]methyl]-N'-methyl-N-(2-phenylethyl)urea | 2.43 g, 79.1% | FC1=CC=C(C=C1)C(N(C(=O)NC)CCC1=CC=CC=C1)C1CCN(CC1)C(=O)NC | C24H31FN4O2
